US05767131
A solution of methyl 5-bromovalerate (10.0 g, 51.3 mmol), NaOMe (12.3 ml of 25% solution, 53.8 mmol) in 100 ml of MeOH was refluxed for 5 hrs. The MeOH was removed in vacuo and residue was partitioned between CHCl3 (200 ml) and water (50 ml). The organic layer was separated and washed with water (100 ml). After drying (Na2SO4) and evaporation of solvent, methyl 5-methoxyvalerate (7.33 g, 97.8%) was obtained as a colorless oil.

reactant | methyl 5-bromovalerate | 51.3 mmol, 10.0 g | BrCCCCC(=O)OC | C6H11BrO2
reactant | NaOMe | 53.8 mmol, 12.3 ml | C[O-].[Na+]
solvent | MeOH | 100 ml | CO | CH4O
product | methyl 5-methoxyvalerate | 7.33 g, 97.8% | COCCCCC(=O)OC | C7H14O3
